US06552068B1
A solution of boron tribromide in dichloromethane (1.0 M, 8.82 ml, 8.82 mmol) was added dropwise to a solution of ethyl 10-[(3RS,4RS)-3-ethyl-7-methoxy-3-(4-methoxyphenyl)thiochroman-4-yl]-2-(7,7,8,8,8-pentafluorooctyl)decanoate (1.05 g, 1.47 mmol) in dichloromethane (15 ml) at −78° C. under argon atmosphere. The reaction mixture was warmed with stirring up to 10° C. over 3 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the resulting residue was dissolved in ethanol (5 ml) and mixed with concentrated sulfuric acid (1 drop), followed by heating under reflux for 12 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel flash column chromatography (eluent: hexane/ethyl acetate=2/1) to give ethyl 10-[(3RS,4RS)-3-ethyl-7-hydroxy-3-(4-hydroxyphenyl)thiochroman-4-yl]-2-(7,7,8,8,8-pentafluorooctyl)decanoate (550 mg, Yield 55%).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | ethyl 10-[(3RS,4RS)-3-ethyl-7-methoxy-3-(4-methoxyphenyl)thiochroman-4-yl]-2-(7,7,8,8,8-pentafluorooctyl)decanoate | 1.47 mmol, 1.05 g | C(C)C1(CSC2=CC(=CC=C2C1CCCCCCCCC(C(=O)OCC)CCCCCCC(C(F)(F)F)(F)F)OC)C1=CC=C(C=C1)OC | C39H55F5O4S
reactant | Water | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8.82 mmol, 1.0 M, 8.82 ml | ClCCl | CH2Cl2
product | ethyl 10-[(3RS,4RS)-3-ethyl-7-hydroxy-3-(4-hydroxyphenyl)thiochroman-4-yl]-2-(7,7,8,8,8-pentafluorooctyl)decanoate | 550 mg, Yield 55% | C(C)C1(CSC2=CC(=CC=C2C1CCCCCCCCC(C(=O)OCC)CCCCCCC(C(F)(F)F)(F)F)O)C1=CC=C(C=C1)O | C37H51F5O4S
